US07067520B2
10.3 g of bismethylthio methylenepropane dinitrile, 5.0 g of 3-aminopyrazole and 250 ml of ethanol were stirred under reflux with heating for about 6 hours and then cooled to room temperature, and the precipitated crystals were collected by filtration. The collected crystals were washed with ethanol and then dried to obtain 10.9 g of 7-amino-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile (compound No. 1) having a melting point of at least 240° C.

reactant | bismethylthio methylenepropane dinitrile | 10.3 g | CSC(SC)=C(C#N)C#N | C6H6N2S2
reactant | 3-aminopyrazole | 5.0 g | NC1=NNC=C1 | C3H5N3
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 7-amino-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile | 10.9 g | NC1=C(C(=NC=2N1N=CC2)SC)C#N | C8H7N5S
